US06066658
4,5-Dihydro-8-methylthio-2-phenylthieno[3,4-e]benzothiazole-6-carboxylic acid (0.43 g) was suspended in tetrahydrofuran (15 ml); oxalyl chloride (0.23 g) and then N,N-dimethylformamide (6 μl) were added. After this mixture was stirred at room temperature for 2 hours, it was concentrated under reduced pressure. The residue was suspended in tetrahydrofuran (5 ml) and cooled with ice; a 70% aqueous solution of ethylamine (4.0 ml) was added. After the reaction mixture was stirred at room temperature for 1 hour, it was poured over water (150 ml) and extracted with ethyl acetate-tetrahydrofuran (3:1, v/v). The organic layer was washed with water and dried (MgSO4), after which the solvent was distilled off to yield N-ethyl-4,5-dihydro-8-methylthio-2-phenylthieno[3,4-e]benzothiazole-6-carboxamide (0.35 g, 76%), which was then recrystallized from chloroform-ethanol. Yellow needles. Melting point 211-212° C.

reactant | 4,5-Dihydro-8-methylthio-2-phenylthieno[3,4-e]benzothiazole-6-carboxylic acid | 0.43 g | CSC=1SC(=C2CCC3=C(N=C(S3)C3=CC=CC=C3)C21)C(=O)O | C17H13NO2S3
reactant | oxalyl chloride | 0.23 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | 6 μl | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | N-ethyl-4,5-dihydro-8-methylthio-2-phenylthieno[3,4-e]benzothiazole-6-carboxamide | 0.35 g, 76% | C(C)NC(=O)C=1SC(=C2C1CCC1=C2N=C(S1)C1=CC=CC=C1)SC | C19H18N2OS3
